US04786311
1-(2-Chlorosulfonylphenyl)-5-methyl-1H-tetrazole
To 5 g of 1-(2-hydroxylaminophenyl)-5-methyl-1H-tetrazole in 12 mL of 37% hydrochloric acid and 5 mL of acetic acid at 0°-5° C. was added 2.3 g of sodium nitrite in 10 mL of water. The resultant solution was stirred at -5° to +5° C. for one hour and then added portionwise, with stirring, to a mixture of 25 mL of acetic acid, 0.5 g of cupric chloride and 5 mL of liquified sulfur dioxide at below 5° C. After stirring for two hours, during which time the mixture was allowed to warm to room temperature, it was poured into 150 mL of ice and water and extracted twice with 150 mL of methylene chloride. The methylene chloride solution was washed three times with 100 mL portions of water, two times with 100 mL of saturated aqueous sodium bicarbonate followed by single washes with 100 mL of saturated aqueous sodium chloride and 100 mL of water. The methylene chloride solution was then dried over magnesium sulfate and filtered to yield a solution containing the desired sulfonylchloride. This solution was used without further work-up to prepare the sulfonamide of Example 2.

reactant | 1-(2-hydroxylaminophenyl)-5-methyl-1H-tetrazole | 5 g | ONC1=C(C=CC=C1)N1N=NN=C1C | C8H9N5O
reactant | sodium nitrite | 2.3 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 5 mL | S(=O)=O | O2S
reactant | sulfonylchloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | hydrochloric acid | 12 mL | Cl | ClH
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 1-(2-Chlorosulfonylphenyl)-5-methyl-1H-tetrazole | ClS(=O)(=O)C1=C(C=CC=C1)N1N=NN=C1C | C8H7ClN4O2S
